US07456169B2
2-(4-morpholin-4-ylphenyl)ethanol
A mixture of 2-(4-bromophenyl)ethanol (0.70 mL, 5 mmol), morpholine (0.52 mL, 6 mmol), LHMDS (11 mL, IM solution in THF), Pd2 (dba)3 (46 mg, 0.05 mmol), and CyMAP (24 mg, 0.06 mmol) was heated to reflux for 16 hours. Cooled to room temperature. Acidified with IM HCl, stirred for 10 minutes, and neutralized with saturated NaHCO3. Partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel with 1:1 hexanes/ethyl acetate to provide 520 mg (50%) of the desired product. MS (ESI) m/e 208 (M+H)+, 1H NMR (300 MHz, CDCl3): □ 7.15 (d, J=8.48 Hz, 2H), 6.88 (d, J=8.48 Hz, 2H), 3.78-3.87 (m, 6H), 3.11-3.14 (m, 4H), 2.79 (t, J=6.61 Hz, 2H), 1.43 (m, 1H).

reactant | 2-(4-bromophenyl)ethanol | 5 mmol, 0.70 mL | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | morpholine | 6 mmol, 0.52 mL | N1CCOCC1 | C4H9NO
reactant | LHMDS | 11 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd2 (dba)3 | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-morpholin-4-ylphenyl)ethanol | 520 mg, 50% | N1(CCOCC1)C1=CC=C(C=C1)CCO | C12H17NO2
